** sch_path: /foss/designs/CHIP-PLL/charge_pump/NEW_500n_tran_tb.sch
**.subckt NEW_500n_tran_tb
XM15 net13 biasn net4 0 sg13_lv_nmos w=1.6u l=0.6u ng=1
XM16 net4 net1 0 0 sg13_lv_nmos w=1.7u l=0.6u ng=1
XM1 net15 biasn net10 0 sg13_lv_nmos w=1.8u l=0.6u ng=1
XM6 VE biasn net7 0 sg13_lv_nmos w=1.8u l=0.6u ng=1
XM8 net7 net1 0 0 sg13_lv_nmos w=1.72u l=0.6u ng=1
XM9 net1 biasn net3 0 sg13_lv_nmos w=1.8u l=0.6u ng=1
XM10 net2 net1 0 0 sg13_lv_nmos w=1.8u l=0.6u ng=1
Vvp vp 0 {Vp}
Iiref vp net1 0.2u
Vprad net3 net2 0
Vprad1 net10 VE 0
Vin VF net13 0
Xq VG biasn net8 vp sg13_lv_pmos w=2.84u l=0.6u ng=1
XM3 net15 biasn VG vp sg13_lv_pmos w=2.8u l=0.6u ng=1
XM7 VH biasn net6 vp sg13_lv_pmos w=1u l=0.8u ng=1 m=3
XM11 net5 net15 vp vp sg13_lv_pmos w=1u l=0.8u ng=1 m=3
Vip net5 net6 0
XM2 net8 net15 vp vp sg13_lv_pmos w=2.84u l=0.6u ng=1
XM17 vout up VH vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=3
XM18 vout dn VF 0 sg13_lv_nmos w=1.6u l=0.6u ng=1
C1 vout 0 5p
x1 vp 0 biasn vbias
Vup2 up 0 PULSE(1.2 0 0n 10p 10p 5u 15u)
Vdn2 dn 0 PULSE(0 1.2 7.5u 10p 10p 5u 15u)
**** begin user architecture code
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt

.param temp=-40
.param Vp=1.2

**** end user architecture code

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/CHIP-PLL/charge_pump/vbias.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/charge_pump/vbias.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.iopin vp
*.iopin gd
*.opin vbias
XM16 net2 net2 0 gd sg13_lv_nmos w=1u l=0.6u ng=1
XM1 vbias net1 net2 gd sg13_lv_nmos w=1u l=0.6u ng=1
R1 net1 vbias 500
XM5 viref viref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1
XM6 net3 viref vp vp sg13_lv_pmos w=1u l=0.6u ng=1
XM7 net5 net3 net4 gd sg13_lv_nmos w=1u l=0.6u ng=1
XM8 net3 net3 gd gd sg13_lv_nmos w=1.3u l=0.6u ng=1
R3 net4 gd 1k
XM10 net1 viref vp vp sg13_lv_pmos w=1u l=0.6u ng=1
Viref viref net5 0
**** begin user architecture code
.options temp=$temp
.control
op
tran 1n 60u
save all
set filetype=ascii
wrdata cp_test.txt time v(vout) i(vip) i(vin) v(biasn) i(Vdn2) i(Vup2) i(Vvp) v(up) v(dn)
quit
.endc
**** end user architecture code
.ends

.end
